US08633182B2
Step 5: (S)-4-Bromo-5-trifluoromethyl-indan-1-ol
Triethylamine (3.16 mL, 22.5 mmol) is dissolved in dichloromethane (40 mL) and cooled to 0° C. then formic acid (1.0 mL, 26.46 mmol) is added dropwise with cooling. After 20 minutes stirring 4-Bromo-5-trifluoromethyl-indan-1-one (2.1 g, 7.53 mmol) is added followed by Chloro([(1S,2S)-(−)-2-amino-1,2-diphenylethyl](4-toluenesulfonyl)amido)-(mesitylene)ruthenium(II) complex (220 mg, 0.35 mmol) and the mixture is stirred overnight under argon at room temperature. Water is added, the mixture shaken and the phases separated. The organic phase is dried and concentrated under vacuum. The residue is purified by flash chromatography (0-15% ethyl acetate in cyclohexane) to give the title compound (yield 2.0 g).

reactant | Triethylamine | 22.5 mmol, 3.16 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 26.46 mmol, 1.0 mL | C(=O)O | CH2O2
reactant | 4-Bromo-5-trifluoromethyl-indan-1-one | 7.53 mmol, 2.1 g | BrC1=C2CCC(C2=CC=C1C(F)(F)F)=O | C10H6BrF3O
reactant | Water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (S)-4-Bromo-5-trifluoromethyl-indan-1-ol | yield 2.0 g | BrC1=C2CC[C@@H](C2=CC=C1C(F)(F)F)O | C10H8BrF3O
